US07141561B2
1-[4-(2-Bromoethoxy)phenyl]-3-(4-cyclopentyloxyphenyl)-1,3-dihydroimidazol-2-one
1-(4-Cyclopentyloxyphenyl)-3-(4-hydroxyphenyl)-1,3-dihydroimidazol-2-one was reacted with 1,2-dibromoethane as described in example 5. The product with the molecular weight of 443.34 (C22H23BrN2O3); MS (ESI): 443 ([M+H]+) was obtained in this way.

reactant | 1-(4-Cyclopentyloxyphenyl)-3-(4-hydroxyphenyl)-1,3-dihydroimidazol-2-one | C1(CCCC1)OC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)O)=O | C20H20N2O3
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
product | 1-[4-(2-Bromoethoxy)phenyl]-3-(4-cyclopentyloxyphenyl)-1,3-dihydroimidazol-2-one | BrCCOC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1CCCC1)=O | C22H23BrN2O3
